US05668137
A mixture of 2-iodo- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl) benzenesulphonamide (2.0 g), 4-(t-butyldimethylsilyloxy)benzeneboronic acid (1.0 g), prepared by the method described in GB 2276162, tetrakis(triphenylphosphine)palladium(O) (0.25 g), sodium carbonate (0.5 g), dimethoxyethane (10 ml) and water (10 ml) was stirred and heated under reflux for 18 hours. The mixture was allowed to cool and diluted with water (50 ml) and extracted with ethyl acetate (2×50 ml). The combined organic extracts were washed with 0.1M sodium hydroxide solution (50 ml) and water (50 ml) and dried (MgSO4). The solvent was removed by evaporation and the residue purified by chromatography on a Mega Bond Elut column, eluting with 25% ethyl acetate in hexane. Fractions containing the required product were combined and evaporated to dryness to give 4'-hydroxy- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl)-2-biphenylsulphonamide as a solid (0.85g); 1H NMR (CDCl3): 0.7 (d, 6H), 1.59-1.79 (m, 1H), 2.49 (s, 3H), 3.83 (d, 2H), 3.96 (s, 3H), 5.15 (s, 1H), 6.78 (d, 2H), 7.24-7.38 (m, 3H), 7.50-7.59 (m, 2H), 7.91 (s, 1H), 8.57 (d, 1H); mass spectrum (+ve ESP): 472 (M+H)+.

reactant | 2-iodo- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl) benzenesulphonamide | 2.0 g | IC1=C(C=CC=C1)S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C17H20IN3O5S
reactant | 4-(t-butyldimethylsilyloxy)benzeneboronic acid | 1.0 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
reactant | sodium carbonate | 0.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | 50 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.25 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | water | 10 ml | O | H2O
product | 4'-hydroxy- N-(isobutoxycarbonyl)- N-(3-methoxy-5-methylpyrazin-2-yl)-2-biphenylsulphonamide | 0.85g | OC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C23H25N3O6S
